US06369086B1
N-(Amino-imino-methyl)4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide (Z-isomer)
The title compound was prepared in 26% yield from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and 4-amino-N-(amino-imino-methyl)-benzenesulfonamide according to Procedure J: 1H NMR (DMSO-d6): δ11.2 (d, 1H), 10.9 (s, 1H), 9.3 (s, 1H), 8.1 (d, 1H), 7.85 (d, 1H), 7.8 (d, 2H), 7.5 (d, 2H), 7.4 (d, 1H), 7.3 (d, 1H), 6.5 (d, 1H), 5.7 (s, 1H); C17H14N6O3S2: APCI−MS m/z 415 (M+H)+.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | 4-amino-N-(amino-imino-methyl)-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NC(=N)N | C7H10N4O2S
product | N-(Amino-imino-methyl)4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide | 26% yield | NC(NS(=O)(=O)C1=CC=C(C=C1)NC=C1C(NC2=CC=C3N=CSC3=C12)=O)=N | C17H14N6O3S2
